US06620828B2
5-Chloro-thiophene-2-carboxylic acid {3-[4′-amino-2′-(3-methyl-ureido)-[2,5′]bithiazolyl-4-yl]-phenyl}-amide
A solution of N-[3-(2′,4′-diamino-[2,5′]bithiazolyl-4-yl)phenyl]-5-chloro-thiophene-2-carboxamide (0.2307 mmol) (prepared as in Example E(3)), dissolved in anhydrous THF (5.0 mL) and anhydrous N-methylpyrolidinone (1.0 mL) at −78° C., was treated phenyllithium (0.2307 mmol), followed by methylisocyanate (0.3461 mmol). After 5 minutes a second portion of phenyllithium (0.2307 mmol) was added slowly. After stirring for an additional 15 minutes, the reaction was quenched with acetic acid (0.6921 mmol), and methanol (0.5 mL), concentrated, and purified by reverse phase HPLC. The major component was collected, dissolved in ethyl acetate, extracted with NaHCO3, brine, dried over MgSO4, concentrated until a precipitate formed, and filtered. Mass of the resulting light-yellow powder after drying under high vacuum was 46 mg (41% yield).

reactant | N-[3-(2′,4′-diamino-[2,5′]bithiazolyl-4-yl)phenyl]-5-chloro-thiophene-2-carboxamide | 0.2307 mmol | NC=1SC(=C(N1)N)C=1SC=C(N1)C=1C=C(C=CC1)NC(=O)C=1SC(=CC1)Cl | C17H12ClN5OS3
reactant | phenyllithium | 0.2307 mmol | C1(=CC=CC=C1)[Li]
reactant | methylisocyanate | 0.3461 mmol | CN=C=O | C2H3NO
reactant | phenyllithium | 0.2307 mmol | C1(=CC=CC=C1)[Li]
reactant | acetic acid | 0.6921 mmol | C(C)(=O)O | C2H4O2
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | methanol | 0.5 mL | CO | CH4O
solvent | N-methylpyrolidinone | 1.0 mL | CN1C(CCC1)=O | C5H9NO
product | 5-Chloro-thiophene-2-carboxylic acid {3-[4′-amino-2′-(3-methyl-ureido)-[2,5′]bithiazolyl-4-yl]-phenyl}-amide | 41% yield | NC=1N=C(SC1C=1SC=C(N1)C=1C=C(C=CC1)NC(=O)C=1SC(=CC1)Cl)NC(=O)NC | C19H15ClN6O2S3
